US06979690B2
Step 1. 1,1-Dimethylethyl 4-[({[6-amino-5-chloro-2-(methyloxy)-3-pyridinyl]carbonyl}amino)methyl]-1-piperidinecarboxylate
A mixture of 6-amino-5-chloro-2-(methyloxy)-3-pyridinecarboxylic acid (Y. Hirokawa et al., Bioorg. Med. Chem. Lett., 1998, 12, 1551–1554, 500 mg, 2.47 mmol) and 1,1′-carbonyldiimidazole (440 mg, 2.71 mmol) in N,N-dimethylformamide (15 ml) was stirred at room temperature for 45 min. A solution of 1,1-dimethylethyl 4-(aminomethyl)-1-piperidinecarboxylate (529 mg, 2.47 mmol) in N,N-dimethylformamide (5 ml) was added and the resulting mixture was stirred at room temperature for 5 h. The mixture was poured into water (200 ml) and extracted with ethyl acetate/toluene (2:1, 200 ml×3). The combined organic layer was washed with water, dried over magnesium sulfate, and concentrated in vacuo. The obtained residue was chromatographed on a column of silica gel eluting with methanol/dichloromethane (1:25) to give 703 mg (71%) of the title compound as a pale yellow amorphous solid.

reactant | 6-amino-5-chloro-2-(methyloxy)-3-pyridinecarboxylic acid | 2.47 mmol, 500 mg | NC1=C(C=C(C(=N1)OC)C(=O)O)Cl | C7H7ClN2O3
reactant | 1,1′-carbonyldiimidazole | 2.71 mmol, 440 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1,1-dimethylethyl 4-(aminomethyl)-1-piperidinecarboxylate | 2.47 mmol, 529 mg | NCC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1,1-Dimethylethyl 4-[({[6-amino-5-chloro-2-(methyloxy)-3-pyridinyl]carbonyl}amino)methyl]-1-piperidinecarboxylate | 703 mg, 71% | NC1=C(C=C(C(=N1)OC)C(=O)NCC1CCN(CC1)C(=O)OC(C)(C)C)Cl | C18H27ClN4O4
